US07579341B2
(S)-1-{(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-4-(1-methyl-piperidin-4-yl)-piperazine-2-carboxylic acid
Prepared analogously to Example 22.1 from 80.0 mg (0.10 mmol) ethyl(S)-1-{(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-4-(1-methyl-piperidin-4-yl)-piperazine-2-carboxylate and 0.46 mL (0.23 mmol) 0.5 M LiOH solution.

reactant | ethyl(S)-1-{(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-4-(1-methyl-piperidin-4-yl)-piperazine-2-carboxylate | 0.10 mmol, 80.0 mg | NC1=C(C=C(C=C1C(F)(F)F)C[C@H](C(=O)N1[C@@H](CN(CC1)C1CCN(CC1)C)C(=O)OCC)OC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)Cl | C38H49ClF3N7O6
reactant | LiOH | 0.23 mmol, 0.5 M, 0.46 mL | [Li+].[OH-]
product | (S)-1-{(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-4-(1-methyl-piperidin-4-yl)-piperazine-2-carboxylic acid | NC1=C(C=C(C=C1C(F)(F)F)C[C@H](C(=O)N1[C@@H](CN(CC1)C1CCN(CC1)C)C(=O)O)OC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)Cl | C36H45ClF3N7O6
